US07319101B2
b) 4-Isopropyl-2-methoxy-1-methoxymethoxy-benzene
To a solution of 4-isopropenyl-2-methoxy-1-methoxymethoxy-benzene (3.5 g, 16.81 mmol) in 20 mL MeOH, Pd/C (10%, 350 mg) was added and the mixture was stirred 16 h under a H2 atmosphere. The reaction mixture was then filtered through Celite and evaporated in vacuo and briefly dried under vacuum to yield the title compound as a colorless oil.

reactant | 4-isopropenyl-2-methoxy-1-methoxymethoxy-benzene | 16.81 mmol, 3.5 g | C(=C)(C)C1=CC(=C(C=C1)OCOC)OC | C12H16O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | 4-Isopropyl-2-methoxy-1-methoxymethoxy-benzene | C(C)(C)C1=CC(=C(C=C1)OCOC)OC | C12H18O3
